US09302989B2
N-{2-fluoro-4-[1-(3-methylbutyl)-1H-pyrazol-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 1-isopentyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1H-pyrazol-3-ylboronic acid and N-(4-bromo-2-fluorophenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.21 (s, 1H), 8.04 (s, 1H), 7.88 (s, 1H), 7.56 (t, J=8.4 Hz, 1H), 7.46 (dd, J=12.1, 1.9 Hz, 1H), 7.25-7.41 (m, 5H), 4.76-4.81 (m, 4H), 4.12 (t, J=7.2 Hz, 2H), 1.70 (q, J=7.1 Hz, 2H), 1.40-1.59 (m, 1H), 0.91 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 393 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(4-bromo-2-fluorophenyl)isoindoline-2-carboxamide | BrC1=CC(=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)F | C15H12BrFN2O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-{2-fluoro-4-[1-(3-methylbutyl)-1H-pyrazol-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | FC1=C(C=CC(=C1)C=1C=NN(C1)CCC(C)C)NC(=O)N1CC2=CC=CC=C2C1 | C23H25FN4O
